US07608639B2
5-Methoxy-2-methyl-phenol
A solution of 2-hydroxy-4-methoxy-benzaldehyde (5.00 g, 32.86 mmol) and palladium under carbon (10%) (3.50 g, 3.28 mmol) in ethanol (32 mL) and acetic acid (3 mL) is stirred under 60 psi of hydrogen. After stirring overnight, the mixture is filtered off through Celite and washed with methanol. The mixture is concentrated under reduced pressure, and purified by flash chromatography by eluting with hexane:ethyl acetate 2:1 to afford the title compound (3.96 g, 87%). Rf=0.58 (hexane:ethyl acetate 2:1). δ1HNMR (300 MHz, CDCl3): 2.18 (s, 3H), 3.75 (s, 3H), 6.42 (m, 2H), 7.00(d, 1H, J=8.9 Hz).

reactant | 2-hydroxy-4-methoxy-benzaldehyde | 32.86 mmol, 5.00 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 32 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 5-Methoxy-2-methyl-phenol | 3.96 g, 87% | COC=1C=CC(=C(C1)O)C | C8H10O2
